US06252082B1
Methyl 4-[(4-fluorophenyl)methyl]-6-methyl-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1,2-dihydropyridine-1-acetate
1.8 g (5.91 mmol) of methyl 3-amino-4-[(4-fluorophenyl)methyl]-6-methyl-2-oxo-1,2-dihydro-pyridine-1-acetate are treated with 1 ml (7.09 mmol) of phenylmethyl chloroformate according to the method described in Example 3. The residue is purified by chromatography on a silica gel column, eluting with a dichloromethane:methanol (98:2) mixture. 2.15 g of product are obtained.

reactant | methyl 3-amino-4-[(4-fluorophenyl)methyl]-6-methyl-2-oxo-1,2-dihydro-pyridine-1-acetate | 5.91 mmol, 1.8 g | NC=1C(N(C(=CC1CC1=CC=C(C=C1)F)C)CC(=O)OC)=O | C16H17FN2O3
reactant | phenylmethyl chloroformate | 7.09 mmol, 1 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Methyl 4-[(4-fluorophenyl)methyl]-6-methyl-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1,2-dihydropyridine-1-acetate | 2.15 g, Yield=83% | FC1=CC=C(C=C1)CC1=C(C(N(C(=C1)C)CC(=O)OC)=O)NC(=O)OCC1=CC=CC=C1 | C24H23FN2O5
